US08604210B2
Synthesis of 1-(pyridin-2-yl)-3-(3-(trifluoromethyl)phenyl)-1H-pyrazol-5-ol (1)
Ethyl 3-trifluoromethylbenzoylacetate (10 mmol, manufactured by Aldrich) and ethanol (10 mL) were charged in a 100 mL round-bottom flask to which a solution of 2-hydrazinopyridine (10 mmol, manufactured by Aldrich) in ethanol (10 mL) was then added.

reactant | Ethyl 3-trifluoromethylbenzoylacetate | 10 mmol | FC(C=1C=C(C(=O)CC(=O)OCC)C=CC1)(F)F | C12H11F3O3
reactant | 2-hydrazinopyridine | 10 mmol | N(N)C1=NC=CC=C1 | C5H7N3
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(pyridin-2-yl)-3-(3-(trifluoromethyl)phenyl)-1H-pyrazol-5-ol | N1=C(C=CC=C1)N1N=C(C=C1O)C1=CC(=CC=C1)C(F)(F)F | C15H10F3N3O
